US05387685
6,7-Bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1,2,3,4-tetrahydroisoquinoline
A mixture of 1.0 g of 1,2,3,4-tetrahydro-6,7-isoquinolinediol hydrobromide and 2.45 g of t-butyl dimethylsilyl chloride in 25.0 mL of pyridine is heated under reflux for 4.5 hours, cooled, poured into water and extracted with diethyl ether. The diethyl ether extract is washed with brine, dried, filtered. The filtrate is evaporated to yield a brown oil. This oil is purified by Kugelrohr distillation to yield 1.6 g of the desired product as a yellow solid, b.p. 155° C., 350 torr.

reactant | 1,2,3,4-tetrahydro-6,7-isoquinolinediol hydrobromide | 1.0 g | Br.C1NCCC2=CC(=C(C=C12)O)O
reactant | t-butyl dimethylsilyl chloride | 2.45 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | pyridine | 25.0 mL | N1=CC=CC=C1 | C5H5N
product | 6,7-Bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1,2,3,4-tetrahydroisoquinoline | 1.6 g | CC(C)(C)[Si](OC=1C=C2CCNCC2=CC1O[Si](C)(C)C(C)(C)C)(C)C | C21H39NO2Si2
